US05397798
A. 3-Amino-N-[3-(1H-imidazol-1-yl)propyl]-2-pyrazine carboxamide
A solution of 19.09 g (0.0776 mol) of 1,1'-carbonyldiimidazole in approximately 200 ml of dimethylformamide was added slowly to a cold (0° C.) solution of 15.78 g (0.1135 mol) of 3-aminopyrazine-2-carboxylic acid in 150 ml of dimethylformamide. The resulting solution was gradually warmed to 25° C. and stirred for about two hours. A solution of 14.75 g (0.118 mol) of N-(3-aminopropyl)imidazole in approximately 40 ml of dimethylformamide was added and the resulting solution was allowed to react for four hours. After four hours, the reaction solution was reduced to dryness under reduced pressure. The resultant semi-solid was suspended in diethyl ether and the portion which did not dissolve was recovered by filtration. The recovered solid was then suspended in diethyl ether containing a small amount of ethyl acetate and the resulting mixture was stirred for about 48 hours. After stirring for 48 hours, the undissolved solid was isolated by filtration. This solid was purified by filtration through silica gel using 4% methanol in dichloromethane. The resultant purified material was recrystallized from a 1:4 dichloromethane/diethyl ether solution to provide 24.4 g of the desired subtitled intermediate (m.p. 118°-120° C.).

reactant | 1,1'-carbonyldiimidazole | 0.0776 mol, 19.09 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 3-aminopyrazine-2-carboxylic acid | 0.1135 mol, 15.78 g | NC=1C(=NC=CN1)C(=O)O | C5H5N3O2
reactant | N-(3-aminopropyl)imidazole | 0.118 mol, 14.75 g | NCCCN1C=NC=C1 | C6H11N3
solvent | dimethylformamide | approximately 200 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 150 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | approximately 40 ml | CN(C=O)C | C3H7NO
solvent | diethyl ether | C(C)OCC | C4H10O
product | 3-Amino-N-[3-(1H-imidazol-1-yl)propyl]-2-pyrazine carboxamide | 24.4 g | NC=1C(=NC=CN1)C(=O)NCCCN1C=NC=C1 | C11H14N6O
